US05753657
To a suspension of 1.05 g of 7-chloro-10-hydroxyimino-5H,10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-4-one in 35 ml of ethanol in the presence of 0.12 g of ammonium acetate and 35 ml of 28% aqueous ammonia are progressively added 1.07 g of zinc powder. The reaction mixture is brought to reflux for 5 hours. After cooling to a temperature in the region of 20° C., 45 ml of 6N hydrochloric acid are added dropwise to the reaction medium and stirring is continued for 24 hours at the same temperature. The precipitate formed is filtered off, washed with water and dried under reduced pressure (1 mmHg; 0.13 kPa) at 50° C. 0.35 g of 10-amino-7-chloro-5H,10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-4-one dihydrochloride trihydrate is thus obtained, in the form of a beige powder decomposing at 250° C. [N.M.R. spectrum: (250 MHz; DMSO d6 ; δ in ppm): 5.70 (broad s, 1H: CH at 10); (dd, J=8 and 2 Hz, 1H: H-8); 7.67 and 8.57 (2d, J=1 Hz, 1H each: H of the imidazole); 8.01 (d, J=2 Hz, 1H: H-6); 8.01 (d, J=8 Hz, 1H: H-9); 9.30 (cplx, 1H: NH2) 12.70 (cplx, 1H: CONH)].

reactant | 7-chloro-10-hydroxyimino-5H,10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-4-one | 1.05 g | ClC=1C=CC=2C(C3=C(NC(C=4N3C=CN4)=O)C2C1)=NO | C13H7ClN4O2
reactant | ammonium acetate | 0.12 g | C(C)(=O)[O-].[NH4+]
reactant | ammonia | 35 ml | N | H3N
reactant | hydrochloric acid | 6N, 45 ml | Cl | ClH
solvent | ethanol | 35 ml | C(C)O | C2H6O
catalyst | zinc | 1.07 g | [Zn] | Zn
product | 10-amino-7-chloro-5H,10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-4-one dihydrochloride trihydrate | 0.35 g | O.O.O.Cl.Cl.NC1C=2C=CC(=CC2C=2NC(C=3N(C21)C=CN3)=O)Cl | InChI=1S/C13H9ClN4O.2ClH.3H2O/c14-6-1-2-7-8(5-6)10-11(9(7)15)18-4-3-16-12(18)13(19)17-10;;;;;/h1-5,9H,15H2,(H,17,19);2*1H;3*1H2
